US07153873B2
1-acetyl-5-amino-7-chloro-3-cyclohexylamino-2-pyridin-2-yl-imidazo[1,2-a]pyrimidin-1-ium chloride
Example 20 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2,6-diamino-4-chloro-pyrimidine (0.1 M, DCM), 0.575 ml (0.115 mmol) cyclohexylisonitrile solution (0.2 M, DCM), 0.500 ml (0.15 mmol) pyridine-2-carbaldehyde solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process step c) and d) by reacting the resultant reaction product with 0.4 mmol acetylchloride.

reactant | 2,6-diamino-4-chloro-pyrimidine | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC(=CC(=N1)Cl)N | C4H5ClN4
reactant | cyclohexylisonitrile | 0.115 mmol, 0.2 M, 0.575 ml | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | pyridine-2-carbaldehyde | 0.15 mmol, 0.3 M, 0.500 ml | N1=C(C=CC=C1)C=O | C6H5NO
reactant | acetylchloride | 0.4 mmol | C(C)(=O)Cl | C2H3ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 1-acetyl-5-amino-7-chloro-3-cyclohexylamino-2-pyridin-2-yl-imidazo[1,2-a]pyrimidin-1-ium chloride | [Cl-].C(C)(=O)[N+]=1C(=C(N2C1N=C(C=C2N)Cl)NC2CCCCC2)C2=NC=CC=C2 | InChI=1S/C19H21ClN6O.ClH/c1-12(27)25-17(14-9-5-6-10-22-14)18(23-13-7-3-2-4-8-13)26-16(21)11-15(20)24-19(25)26;/h5-6,9-11,13,21H,2-4,7-8H2,1H3,(H,22,23);1H
